US06548499B1
2-{[3-(6,7-Dichloro-3-pyridin-2-yl-quinoxalin-2-ylamino)-propyl]-(2-hydroxy-ethyl)-amino}-ethanol
A solution of 2,6,7-trichloro-3-pyridin-2-yl-quinoxaline (0.50 g) and 3-[bis(2-hydroxy-ethyl)amino]-propylamine (0.51 g) in toluene (25 mL) was refluxed under nitrogen atmosphere for 16 hours. After refluxing, the reaction mixture was cooled, filtered, and concentrated under vacuum. The residue was purified by flash chromatography (silica gel, 1:9 methanol/dichloromethane) to give a yellow solid. Recrystallization from methanol and water gave the product as a yellow plate like crystals (0.55 g); mp 88-90° C.

reactant | 2,6,7-trichloro-3-pyridin-2-yl-quinoxaline | 0.50 g | ClC1=NC2=CC(=C(C=C2N=C1C1=NC=CC=C1)Cl)Cl | C13H6Cl3N3
reactant | 3-[bis(2-hydroxy-ethyl)amino]-propylamine | 0.51 g | OCCN(CCCN)CCO | C7H18N2O2
solvent | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
product | 2-{[3-(6,7-Dichloro-3-pyridin-2-yl-quinoxalin-2-ylamino)-propyl]-(2-hydroxy-ethyl)-amino}-ethanol | 0.55 g | ClC=1C=C2N=C(C(=NC2=CC1Cl)NCCCN(CCO)CCO)C1=NC=CC=C1 | C20H23Cl2N5O2
